US07419988B2
1,1-dimethylethyl (2-{3-(4-{[(dimethylamino)carbonyl]amino}phenyl)-4-[2-(3-formylphenyl)-1H-pyrrolo[2,3-b]pyridin-4-yl]-1H-pyrazol-1-yl}ethyl)methylcarbamate
To a stirred solution of 1,1-dimethylethyl [2-(3-(4-{[(dimethylamino)carbonyl]amino}phenyl)-4-{2-[3-(hydroxymethyl)phenyl]-1H-pyrrolo[2,3-b]pyridin-4-yl}-1H-pyrazol-1-yl)ethyl]methylcarbamate (1.24 g, 2.0 mMol) in CHCl3 (100 mL) was added activated MnO2 (2.5 g, 28.7 mMol). The reaction was stirred and refluxed (70° C. oil bath) for 8 h, cooled to RT, filtered through a pad of Celite®, rinsed with CHCl3, and evaporated to dryness under vacuum. Purification by flash chromatography on silica gel (5 to 10% MeOH in (1:1) EtOAc/CHCl3) provided the title compound (0.94 g, 77%) as a pale yellow solid. ESMS [M+H]+: 608.6.

reactant | 1,1-dimethylethyl [2-(3-(4-{[(dimethylamino)carbonyl]amino}phenyl)-4-{2-[3-(hydroxymethyl)phenyl]-1H-pyrrolo[2,3-b]pyridin-4-yl}-1H-pyrazol-1-yl)ethyl]methylcarbamate | 2.0 mMol, 1.24 g | CN(C(=O)NC1=CC=C(C=C1)C1=NN(C=C1C1=C2C(=NC=C1)NC(=C2)C2=CC(=CC=C2)CO)CCN(C(OC(C)(C)C)=O)C)C | C34H39N7O4
solvent | CHCl3 | 100 mL | C(Cl)(Cl)Cl | CHCl3
catalyst | MnO2 | 28.7 mMol, 2.5 g | O=[Mn]=O
product | 1,1-dimethylethyl (2-{3-(4-{[(dimethylamino)carbonyl]amino}phenyl)-4-[2-(3-formylphenyl)-1H-pyrrolo[2,3-b]pyridin-4-yl]-1H-pyrazol-1-yl}ethyl)methylcarbamate | 0.94 g, 77% | CN(C(=O)NC1=CC=C(C=C1)C1=NN(C=C1C1=C2C(=NC=C1)NC(=C2)C2=CC(=CC=C2)C=O)CCN(C(OC(C)(C)C)=O)C)C | C34H37N7O4
